* U:\LTspice\examples\Educational\fast.asc
R1 N001 N002 2K
R2 N001 N003 2K
R3 N002 N004 101K
R4 N003 N005 100K
C1 N003 N004 .01µ
C2 N005 N002 .01µ
V1 N001 0 5
Q1 N003 N005 0 0 2N3904
Q2 N002 N004 0 0 2N3904
.model NPN NPN
.model PNP PNP
.lib U:\LTspice\lib\cmp\standard.bjt
.tran 25m startup
* This example schematic is supplied for informational/educational purposes only.
.options fastaccess
.backanno
.end
