* d:\xp\examples\Educational\contrib\qztst.asc
C§Y1 N002 OUT {Cs} Rser={Rs} Lser={Ls} Cpar={Cp}
V1 N001 0 AC 2
R1 N002 N001 50
R2 0 OUT 50
.ac lin 1001 3.95e6 4.05e6
* Crystal model from easily measurable parameters
*serial freq
.params fs=4e6  
*difference between serial and // freq 
.params df=10e3  
.params Rs=50
.params Cp=4e-12
.params Cs=2.0*cp*df/fs
.params Ls=1/(4*pi*pi*fs*fs*Cs)
* This example schematic is supplied for informational/educational purposes only.\nContributed by Dominique Szymik.
.backanno
.end
